US09212187B2
Synthesis of 5-(2,2-dihydroxyethyl)-2-methyl-5H-furo[3,2-c]pyridin-4-one
Sodium hydride (60% in oil, 0.32 g) was suspended in DMF(10 ml), and was cooled to 0° C. in an ice water bath. 2-Methyl-5H-furo[3,2-c]pyridin-4-one (0.57 g) was added thereto at the same temperature, and the mixture was stirred at 0° C. for an hour. Bromoacetaldehyde dimethylacetal(2.3 ml) was added thereto, and the mixture was stirred at 80° C. for 5 hours. Water was added to the reaction liquid, followed by extraction by ethyl acetate. The organic layer was dried over sodium sulfate, and condensed under reduced pressure. A 3N-hydrochloric acid(2 ml) was added to an acetone solution (10 ml) of the residue, and the liquid was stirred at 70° C. for 10 hours. Water was added to the reaction liquid and stirred at room temperature. The precipitated insoluble matter was separated, washed with water, and dried to give the title compound(0.56 g) as a white solid.

reactant | Sodium hydride | 0.32 g | [H-].[Na+]
reactant | 2-Methyl-5H-furo[3,2-c]pyridin-4-one | 0.57 g | CC1=CC=2C(NC=CC2O1)=O | C8H7NO2
reactant | Bromoacetaldehyde dimethylacetal | 2.3 ml | COC(CBr)OC | C4H9BrO2
reactant | Water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-(2,2-dihydroxyethyl)-2-methyl-5H-furo[3,2-c]pyridin-4-one | 0.56 g | OC(CN1C(C2=C(C=C1)OC(=C2)C)=O)O | C10H11NO4
